US06362177B1
A solution of 1-(4-chlorobenzyl)-4-{(valylamino)methyl}piperidine (20 mg, 0.059 mmol) in CH2Cl2 (0.60 mL) was treated with Et3N (0.011 mL, 0.077 mmol), m-cyanobenzoic acid (28 mg, 0.071 mmol), EDCI (13 mg, 0.065 mmol) and HOBt (9 mg, 0.065 mmol). The reaction mixture was stirred at 25° C. for 16 h. The resulting solution was diluted with CH2Cl2 (0.75 mL), washed with 2 N aqueous NaOH solution (2×0.75 mL) and dried by filtration through a PTFE membrane. Concentration afforded the 1-(4-chlorobenzyl)-4-[{N-(3-cyanobenzoyl)valyl}aminomethyl]piperidine (compound No. 619) (24.2 mg, 88%) which required no further purification: The purity was determined by RPLC/MS (85%); ESI/MS m/e 467 (M++H, C26H30ClN4O2).

reactant | 1-(4-chlorobenzyl)-4-{(valylamino)methyl}piperidine | 0.059 mmol, 20 mg | ClC1=CC=C(CN2CCC(CC2)CNC([C@@H](N)C(C)C)=O)C=C1 | C18H28ClN3O
reactant | Et3N | 0.077 mmol, 0.011 mL | CCN(CC)CC | C6H15N
reactant | m-cyanobenzoic acid | 0.071 mmol, 28 mg | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | EDCI | 0.065 mmol, 13 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.065 mmol, 9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 0.60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.75 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorobenzyl)-4-[{N-(3-cyanobenzoyl)valyl}aminomethyl]piperidine | ClC1=CC=C(CN2CCC(CC2)CNC([C@@H](NC(C2=CC(=CC=C2)C#N)=O)C(C)C)=O)C=C1 | C26H31ClN4O2
